US07820680B2
Step 2: 2-(4-Fluorobenzyl)-7-isopropyl-4-[2-(methylamino)ethyl]-1,6,8-trioxo-1,3,4,6,7,8-hexahydro-2H-pyrazino[1,2-c]pyrimidin-9-yl acetate
4-{2-[Benzyl(methyl)amino]ethyl}-2-(4-fluorobenzyl)-7-isopropyl-1,6,8-trioxo-1,3,4,6,7,8-hexahydro-2H-pyrazino[1,2-c]pyrimidin-9-yl acetate (456 mg, 0.85 mmol) was suspended in degassed MeOH (10 mL). Aqueous HCl (6 M) was added dropwise until all the solids dissolved. The resulting stirred solution was degassed and purged with nitrogen three times. Palladium on carbon (10%, 131 mg) was added and the mixture was again degassed and purged with nitrogen (×3) and was then placed under hydrogen atmosphere (balloon) and stirred overnight at room temperature. The mixture was filtered through Celite, washing the filter cake well with MeOH. The filtrate was concentrated in vacuo and the residual oil triturated with diethyl ether to afford the hydrochloride salt of the title compound as a bright yellow solid. ES MS (M+1)=447.5.

reactant | 4-{2-[Benzyl(methyl)amino]ethyl}-2-(4-fluorobenzyl)-7-isopropyl-1,6,8-trioxo-1,3,4,6,7,8-hexahydro-2H-pyrazino[1,2-c]pyrimidin-9-yl acetate | 0.85 mmol, 456 mg | C(C)(=O)OC1=C2N(C(N(C1=O)C(C)C)=O)C(CN(C2=O)CC2=CC=C(C=C2)F)CCN(C)CC2=CC=CC=C2 | C29H33FN4O5
reactant | HCl | 6 M | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
product | 2-(4-Fluorobenzyl)-7-isopropyl-4-[2-(methylamino)ethyl]-1,6,8-trioxo-1,3,4,6,7,8-hexahydro-2H-pyrazino[1,2-c]pyrimidin-9-yl acetate | C(C)(=O)OC1=C2N(C(N(C1=O)C(C)C)=O)C(CN(C2=O)CC2=CC=C(C=C2)F)CCNC | C22H27FN4O5
